2153-08-13 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2153-8-12**] 12:03 PM
 BLOOD CULTURED - At [**2153-8-12**] 03:35 PM
 BLOOD CULTURED - At [**2153-8-12**] 03:36 PM
 URINE CULTURE - At [**2153-8-12**] 03:36 PM
 FEVER - 103.5
F - [**2153-8-12**] 04:00 PM
   --received 5PO valium for neck stiffness / anxiety
   --spiked at 3pm to 102-103 while getting chemo, pancultured, received
   dex early per BMT
   --1U pRBC for HCT 23.3 -> 25.2
   --1U plts for Plt 20 -> 42
   --received 5mg Vit K PO per BMT (INR may be supratherapeutic [**2-12**] to gut
   decontamination w/ recent broad spectrum abx)
   --need ID approval for Vanco today
   --had increased work of breathing at 5am w/ inc diffuse opacity on L
   field, PaO2 49, +4.7L yesterday -> lasix 10 IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-12**] 12:01 PM
   Vancomycin - [**2153-8-12**] 07:45 PM
   Levofloxacin - [**2153-8-12**] 09:29 PM
   Cefipime - [**2153-8-12**] 11:12 PM
   Metronidazole - [**2153-8-13**] 12:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-12**] 10:37 AM
   Lorazepam (Ativan) - [**2153-8-12**] 11:12 PM
   Furosemide (Lasix) - [**2153-8-13**] 05:36 AM
   Morphine Sulfate - [**2153-8-13**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 38.3
C (101
   HR: 113 (90 - 126) bpm
   BP: 135/65(87) {95/52(66) - 166/82(110)} mmHg
   RR: 35 (22 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.4 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 9 (9 - 334)mmHg
   Total In:
                                                                  6,880 mL
                                                                    972 mL
   PO:
                                                                    955 mL
   TF:
   IVF:
                                                                  4,891 mL
                                                                    972 mL
   Blood products:
                                                                  1,033 mL
   Total out:
                                                                  2,102 mL
                                                                    915 mL
   Urine:
                                                                  2,102 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,778 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.45/34/108/20/0
   PaO2 / FiO2: 108
   Physical Examination
   General: Sleeping but arousable, shallow breathing, oriented x 3
   HEENT: Sclera anicteric, dry MM
   Neck: supple, JVP ~12 cm, no LAD
   Lungs: Diffuse crackles R>L
   CV: Tachycardic, nl s1 s2, [**2-16**] non-radiating soft systolic murmur
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   22 K/uL
   8.6 g/dL
   98 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   17 mg/dL
   105 mEq/L
   137 mEq/L
   25.2 %
   31.8 K/uL
        [image002.jpg]
                             [**2153-8-12**]  12:24 PM
                             [**2153-8-12**]  03:46 PM
                             [**2153-8-12**]  06:10 PM
                             [**2153-8-12**]  09:10 PM
                             [**2153-8-12**]  10:46 PM
                             [**2153-8-12**]  11:00 PM
                             [**2153-8-13**]  02:00 AM
                             [**2153-8-13**]  04:33 AM
                             [**2153-8-13**]  05:29 AM
                             [**2153-8-13**]  06:01 AM
   WBC
   31.4
   37.7
   38.2
   31.8
   Hct
   23.3
   25.2
   23.8
   25.2
   Plt
   35
   20
   42
   35
   22
   Cr
   0.7
   0.6
   0.7
   TCO2
   26
   27
   24
   24
   24
   Glucose
   98
   Other labs: PT / PTT / INR:16.4/29.5/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:40.0 %, Band:10.0 %, Lymph:9.0 %,
   Mono:18.0 %, Eos:0.0 %, D-dimer:5261 ng/mL, Fibrinogen:548 mg/dL, FDP
   10-40, Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:567 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   BCx
 pending, Ucx
 pending, Sputum
 pending, MRSA screen
 pending,
   HIV viral load
 pending
   CXR
 right subclavian line visualized, diffuse interstitial opacities,
   more patchy at the lung bases
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   This is a 45 year old female presenting with new diagnosis of likely
   AML now with worsening hypoxia, fever and diffuse interstitial
   infiltrates on CT.
   .
   # Hypoxemic respiratory distress:  Pt with underlying emphysema
   compounding current picture.  With interval progression of intersitial
   pattern on CT scan and worsening O2 requirement.  Differential includes
   infectious etiologies (viral/bacterial including superimposing
   nosocomial infection given that she is now day #4 of hospitalization).
   Given progression despite broad spectrum coverage, infiltrative
   leukemia is also on differential.
   - Trial of diuresis with CVP goal < 10
   - Check BNP, consider repeat ECHO if elevated
   - Continue broad spectrum coverage including vanc, cefepime, levoflox,
   micafungin and tamiflu.
   - Will add empiric anaerobic coverage with flagyl given recent emesis
   and worsening respiratory status
   - Follow up culture data
   - Frequent ABGs, trial of non-invasive ventilation if persistent O2
   requirement/evidence of CO2 retention [**2-12**] fatigue
   - Chemotherapy per oncology
   - Nebs prn
   .
   # Fever: Currently meets SIRS criteria with temperature, HR, RR, and
   WBC.  Remains hemodynamically stable, cultures negative to date.
   Clinical picture is compounded leukemia which may be responsible for
   the above.
   - f/u culture data
   - Antibiotics as above
   - Chemotherapy per oncology
   - ATC tylenol for fever given tachycardia, increase in metabolic demand
   .
   # Leukemia: With likely AML, awaiting cytogentics.  Plan to start
   idarubacin and cytarabine tonight.
   - Dexamethasone, idarubacin, cytarabine per heme onc
   - TLS, DIC labs q6 hours
   - Transfuse to hct >24, plt> 15K
   - IVF with NS
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: p-boots
   .
   # Access: peripherals, RIJ, a-line
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:NPO
   Glycemic Control: n/a
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending improvement
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2153-8-12**] 12:03 PM
 BLOOD CULTURED - At [**2153-8-12**] 03:35 PM
 BLOOD CULTURED - At [**2153-8-12**] 03:36 PM
 URINE CULTURE - At [**2153-8-12**] 03:36 PM
 FEVER - 103.5
F - [**2153-8-12**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-12**] 12:01 PM
   Vancomycin - [**2153-8-12**] 07:45 PM
   Levofloxacin - [**2153-8-12**] 09:29 PM
   Cefipime - [**2153-8-12**] 11:12 PM
   Metronidazole - [**2153-8-13**] 12:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-12**] 10:37 AM
   Lorazepam (Ativan) - [**2153-8-12**] 11:12 PM
   Furosemide (Lasix) - [**2153-8-13**] 05:36 AM
   Morphine Sulfate - [**2153-8-13**] 06:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-13**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 38.3
C (101
   HR: 113 (90 - 126) bpm
   BP: 135/65(87) {95/52(66) - 166/82(110)} mmHg
   RR: 35 (22 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.4 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 9 (9 - 334)mmHg
   Total In:
                                                                  6,880 mL
                                                                  1,007 mL
   PO:
                                                                    955 mL
   TF:
   IVF:
                                                                  4,891 mL
                                                                  1,007 mL
   Blood products:
                                                                  1,033 mL
   Total out:
                                                                  2,102 mL
                                                                    915 mL
   Urine:
                                                                  2,102 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,778 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.45/34/108/20/0
   PaO2 / FiO2: 108
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22 K/uL
   8.6 g/dL
   98 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   17 mg/dL
   105 mEq/L
   137 mEq/L
   25.2 %
   31.8 K/uL
        [image002.jpg]
                             [**2153-8-12**]  12:24 PM
                             [**2153-8-12**]  03:46 PM
                             [**2153-8-12**]  06:10 PM
                             [**2153-8-12**]  09:10 PM
                             [**2153-8-12**]  10:46 PM
                             [**2153-8-12**]  11:00 PM
                             [**2153-8-13**]  02:00 AM
                             [**2153-8-13**]  04:33 AM
                             [**2153-8-13**]  05:29 AM
                             [**2153-8-13**]  06:01 AM
   WBC
   31.4
   37.7
   38.2
   31.8
   Hct
   23.3
   25.2
   23.8
   25.2
   Plt
   35
   20
   42
   35
   22
   Cr
   0.7
   0.6
   0.7
   TCO2
   26
   27
   24
   24
   24
   Glucose
   98
   Other labs: PT / PTT / INR:16.4/29.5/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:40.0 %, Band:10.0 %, Lymph:9.0 %,
   Mono:18.0 %, Eos:0.0 %, D-dimer:5261 ng/mL, Fibrinogen:548 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:567 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-08-14 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2153-8-13**] 12:02 PM
 INVASIVE VENTILATION - START [**2153-8-13**] 07:45 PM
 FEVER - 101.9
F - [**2153-8-13**] 01:30 PM
   --intubated for increased work of breathing and hypoxic resp distress
   with concern for tiring out
   --3U plts for plt<30
   --briefly on lasix gtt titrated to UOP 100/hr but no real response and
   some hypotension
   --received 1L LR with mild BP improvement
   --possible BAL tomorrow
   --started Bactrim for possible PCP tx
   [**Name9 (PRE) **]2U pRBCs for hct 24.2 to 19.7, 20.3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-13**] 12:00 PM
   Vancomycin - [**2153-8-13**] 08:33 PM
   Levofloxacin - [**2153-8-13**] 09:45 PM
   Cefipime - [**2153-8-14**] 12:29 AM
   Metronidazole - [**2153-8-14**] 01:08 AM
   Bactrim (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-8-13**] 03:00 PM
   Midazolam (Versed) - [**2153-8-13**] 08:00 PM
   Fentanyl - [**2153-8-13**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.6
   HR: 97 (96 - 130) bpm
   BP: 101/54(67) {91/51(63) - 146/70(95)} mmHg
   RR: 23 (19 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 22 (6 - 22)mmHg
   Total In:
                                                                  4,681 mL
                                                                  2,488 mL
   PO:
   TF:
   IVF:
                                                                  4,105 mL
                                                                  2,132 mL
   Blood products:
                                                                    516 mL
                                                                    296 mL
   Total out:
                                                                  3,098 mL
                                                                    202 mL
   Urine:
                                                                  3,098 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                  2,288 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 597 (523 - 597) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 26
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: 7.37/39/84.[**Numeric Identifier 1132**]/21/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General- Sedated, intubated in NAD
   Lungs- Clear to auscultation bilaterally
   Heart- RRR, no m/r/g
   Abd- BS+, nontender, nondistended
   Ext- warm, well perfused
   Labs / Radiology
   53 K/uL
   6.8 g/dL
   125 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   139 mEq/L
   20.3 %
   20.6 K/uL
        [image002.jpg]
                             [**2153-8-13**]  02:30 PM
                             [**2153-8-13**]  04:47 PM
                             [**2153-8-13**]  07:19 PM
                             [**2153-8-13**]  09:10 PM
                             [**2153-8-13**]  10:18 PM
                             [**2153-8-13**]  10:56 PM
                             [**2153-8-14**]  01:17 AM
                             [**2153-8-14**]  02:26 AM
                             [**2153-8-14**]  04:08 AM
                             [**2153-8-14**]  05:51 AM
   WBC
   21.5
   20.6
   Hct
   19.7
   20.3
   Plt
   24
   27
   53
   Cr
   0.7
   0.8
   TCO2
   24
   24
   24
   26
   23
   23
   Glucose
   142
   125
   Other labs: PT / PTT / INR:16.3/33.4/1.4, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:29.0 %, Band:8.0 %, Lymph:19.0 %,
   Mono:23.0 %, Eos:0.0 %, D-dimer:7067 ng/mL, Fibrinogen:426 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:688 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   .
   Uric acid 3.5
   .
   HIV viral load neg
   Blood, sputum and urine cx pending
   .
   CXR: worsening bilateral patchy infiltrates, now obscuring bilateral
   hemidiaphragms
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   45 year old female presenting with new diagnosis of likely AML now with
   worsening hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxemic respiratory distress: Initially on CMV with tidal volumes
   around 500, PEEP 8 but had high RR (30s) with high minute vents.
   Changed to pressure support with high PEEP.  Currently meets ARDS
   criteria but given patient
s current comfort with high PEEP, will keep
   on PS vent until results of BAL rule out PCP.  [**Name10 (NameIs) **] with underlying
   emphysema compounding current picture.  Worsening CXR today.
   Differential includes infectious etiologies (viral/bacterial including
   superimposing nosocomial infection given that she is now day #6 of
   hospitalization).  Given progression despite broad spectrum coverage,
   infiltrative leukemia is also on differential.
   - diuresis with goal of -500 cc fluid balance
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   micafungin, metronidazole
   -continue tx dose of Bactrim for PCP pending results of BAL
   - f/u cultures
   - frequent ABGs
   - Chemotherapy per oncology
   - Nebs PRN
   .
   # Hypotension/low UOP:  Hypotension and low urine output in the setting
   of high PEEP.  Question if this is due to poor filling pressures from
   SVC/IVC compression.  Differential also includes hypovolemia from blood
   loss (although no clear e/o active bleeding), peripheral vasodilation
   from sepsis (although lactate nml).  Must also consider possible
   hemolysis or internal bleed with coagulopathy.  Receiving 2 units pRBCs
   now.
   -monitor BP, UOP after 2 units pRBCs
   -stool guaiac
   - monitor q6 DIC, TLS labs
   .
   # Fever: Currently meets SIRS criteria with temperature, HR, RR, and
   WBC.  Remains hemodynamically stable, cultures negative to date.
   Clinical picture is compounded leukemia which may be responsible for
   the above.  BAL today for more information about lung infiltrates.
   - f/u cultures
   - BAL today
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever given tachycardia, increase in metabolic demand
   .
   # Leukemia: With likely AML, awaiting cytogenetics.  Heme/onc is on
   board
   - Dexamethasone, idarubacin, cytarabine as per heme onc
   - TLS, DIC labs q6 hours
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 10K
   - IVF with NS
   # Metabolic acidosis: likely [**2-12**] IV fluids or lactate, but can also be
   response to chronic respiratory alkalosis
   - check ABG
   - use lactated ringers instead of normal saline
   .
   # FEN: No IVF, replete electrolytes, NPO for BAL then TF
   -nutrition c/s for TF recs
   .
   # Prophylaxis: p-boots
   .
   # Access: peripherals, RIJ, a-line
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition: NPO
   Glycemic Control:  none
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending resolution of above

2153-08-14 11:05:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pnemonia, emphysema, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient intubated last night due to rising PaCO2 and worsening
   oxygenation/respiratory distress.
   Transient drop in BP post intubation responding to fluids.
   Transfused PRBCs yesterday.
   24 Hour Events:
 URINE CULTURE - At [**2153-8-13**] 12:02 PM
 INVASIVE VENTILATION - START [**2153-8-13**] 07:45 PM
 FEVER - 101.9
F - [**2153-8-13**] 01:30 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-13**] 12:00 PM
   Levofloxacin - [**2153-8-13**] 09:45 PM
   Bactrim (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Cefipime - [**2153-8-14**] 07:45 AM
   Vancomycin - [**2153-8-14**] 08:15 AM
   Metronidazole - [**2153-8-14**] 09:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-8-13**] 03:00 PM
   Midazolam (Versed) - [**2153-8-13**] 08:00 PM
   Fentanyl - [**2153-8-13**] 08:13 PM
   Other medications:
   dexamethasone, tylenol,protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-14**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.2
C (98.9
   HR: 95 (91 - 130) bpm
   BP: 90/48(61) {90/46(59) - 146/70(95)} mmHg
   RR: 18 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.4 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 328 (7 - 335)mmHg
   Total In:
                                                                  4,681 mL
                                                                  3,405 mL
   PO:
   TF:
   IVF:
                                                                  4,105 mL
                                                                  2,766 mL
   Blood products:
                                                                    516 mL
                                                                    579 mL
   Total out:
                                                                  3,098 mL
                                                                    342 mL
   Urine:
                                                                  3,098 mL
                                                                    342 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                  3,063 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 617 (523 - 617) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 24
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.37/39/84.[**Numeric Identifier 1132**]/21/-2
   Ve: 13 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few anterior and lateral, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   45 K/uL
   125 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   139 mEq/L
   20.3 %
   20.6 K/uL
        [image002.jpg]
                             [**2153-8-13**]  02:30 PM
                             [**2153-8-13**]  04:47 PM
                             [**2153-8-13**]  07:19 PM
                             [**2153-8-13**]  09:10 PM
                             [**2153-8-13**]  10:18 PM
                             [**2153-8-13**]  10:56 PM
                             [**2153-8-14**]  01:17 AM
                             [**2153-8-14**]  02:26 AM
                             [**2153-8-14**]  04:08 AM
                             [**2153-8-14**]  05:51 AM
   WBC
   21.5
   20.6
   Hct
   19.7
   20.3
   Plt
   24
   27
   53
   45
   Cr
   0.7
   0.8
   TCO2
   24
   24
   24
   26
   23
   23
   Glucose
   142
   125
   Other labs: PT / PTT / INR:16.3/33.4/1.4, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:31.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:25.0 %, Eos:0.0 %, D-dimer:7067 ng/mL, Fibrinogen:426 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:688 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: worsening alveolar infiltrates with loss of
   hemi-diaphragm bilaterally.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ACIDOSIS
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   Oxygenation stable on present vent settings but requiring PEEP=15 to
   maximize comfort. Patient doing well on these settings. Patient pulling
   large tidal volumes with these settings. When she was on volume control
   ventilation last night, peak airway pressures were reportedly low. I am
   inclined to allow her to continue on PSV rather than sedate her heavily
   to achieve low tidal volume ventilation until we determine if PCP
   [**Name Initial (PRE) 7566**]; if not, would then institute ARDS protocol. Will do bronch/BAL
   to determine if treatment for PCP should be continued.
   Small anion gap acidosis persists. Creat normal. This may represent
   small amount of lactate.
   Hct still low. Patient to be transfused today.
   ICU Care
   Nutrition: begin tube feeds post bronch
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-08-15 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2153-8-14**] 02:51 PM
 BLOOD CULTURED - At [**2153-8-15**] 03:15 AM
 URINE CULTURE - At [**2153-8-15**] 03:15 AM
 FEVER - 102.2
F - [**2153-8-15**] 04:00 AM
   - BAL negative for PCP, [**Name10 (NameIs) **] [**Name Initial (NameIs) **]/c
   - transfused 1 unit of platelets, 7k-->31k, later on found to be 13k,
   transfused another unit --> 17k
   - didn't tolerate pressure control, back on pressure support (tidal
   volumes too large and hypotensive with increased sedation)
   - spiked temp and recultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   [**Name Initial (NameIs) 5901**] (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Micafungin - [**2153-8-14**] 01:00 PM
   Levofloxacin - [**2153-8-14**] 07:18 PM
   Vancomycin - [**2153-8-14**] 07:59 PM
   Metronidazole - [**2153-8-14**] 10:51 PM
   Cefipime - [**2153-8-14**] 10:58 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-14**] 02:10 PM
   Fentanyl - [**2153-8-14**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.3
C (99.2
   HR: 109 (89 - 111) bpm
   BP: 108/53(68) {90/46(59) - 115/66(82)} mmHg
   RR: 12 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.2 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 328 (15 - 328)mmHg
   Total In:
                                                                  6,751 mL
                                                                  1,462 mL
   PO:
   TF:
                                                                     48 mL
                                                                    213 mL
   IVF:
                                                                  5,374 mL
                                                                    982 mL
   Blood products:
                                                                  1,119 mL
                                                                    228 mL
   Total out:
                                                                    832 mL
                                                                    580 mL
   Urine:
                                                                    832 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,919 mL
                                                                    882 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (617 - 712) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.37/40/114/20/-1
   Ve: 9 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General- Sedated, intubated in NAD
   Lungs- Clear to auscultation bilaterally with some end expiration
   wheezing
   Heart- RRR, no m/r/g
   Abd- BS+ (weak), nontender, nondistended
   Ext- warm, well perfused
   Labs / Radiology
   17 K/uL
   7.9 g/dL
   148 mg/dL
   1.3 mg/dL
   20 mEq/L
   5.2 mEq/L
   56 mg/dL
   113 mEq/L
   144 mEq/L
   23.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2153-8-13**]  10:56 PM
                             [**2153-8-14**]  01:17 AM
                             [**2153-8-14**]  02:26 AM
                             [**2153-8-14**]  04:08 AM
                             [**2153-8-14**]  05:51 AM
                             [**2153-8-14**]  12:01 PM
                             [**2153-8-14**]  03:30 PM
                             [**2153-8-14**]  07:09 PM
                             [**2153-8-14**]  11:29 PM
                             [**2153-8-15**]  03:31 AM
   WBC
   21.5
   20.6
   13.7
   8.7
   8.4
   8.5
   Hct
   19.7
   20.3
   24.4
   24.2
   24.8
   23.7
   Plt
   53
   45
   7
   31
   13
   17
   Cr
   0.8
   1.3
   TCO2
   26
   23
   23
   24
   Glucose
   125
   148
   Other labs: PT / PTT / INR:16.5/31.4/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:60.0 %, Band:0.0 %, Lymph:13.0 %,
   Mono:19.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 7578**] ng/mL, Fibrinogen:303 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:523 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   .
   BAL: gram stain 2+ polys no microorg, PCP neg, cx pending
   Galactomannan, b-d-glucan pending
   Bcr/abl, jak2 pending
   .
   MRSA screen neg
   [**8-11**] mycolytic blood cx pending
   [**8-13**] urine cx neg, [**8-15**] urine cx pending
   Blood cx pending
   U/A 245 RBCs, 8 WBCs, neg nitrites, tr leuks, no bac or yeast, 2 hy
   casts
   .
   CXR: Improvement of bilateral patchy infiltrates,  hemidiaphragms now
   visualized, more clear L upper fields
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   45 year old female presenting with new diagnosis of likely AML now with
   worsening hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxemic respiratory distress: BAL ruled out PCP yesterday so
   changed to AC for low tidal volumes per ARDSnet protocol.  However
   patient was pulling large tidal volumes and became hypotensive with
   increased sedation.  Switched back to PS O/N still with large tidal
   volumes.  Good oxygenation.  Pt with underlying emphysema compounding
   current picture.  Improving CXR today.  Differential includes
   infectious etiologies (viral/bacterial including superimposing
   nosocomial infection).  Given progression despite broad spectrum
   coverage, infiltrative leukemia is also on differential.
   - f/u results of BAL: galactomannan, cx, legionella
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   micafungin, metronidazole
   - f/u cultures
   - frequent ABGs
   - Chemotherapy per oncology
   - Increased nebs to q4 PRN
   - holding IVF boluses for now given +6 liters yesterday and good UOP
   but bolus to maintain UOP>30cc/hr
   .
   # Hypotension:  Resolving. Had hypotension in setting of increased
   sedation for ARDSnet protocol AC control.  Previous hypotension and low
   UOP was possibly due to poor filling pressures from SVC/IVC
   compression.  Differential also includes hypovolemia from blood loss
   (although no clear e/o active bleeding), peripheral vasodilation from
   sepsis (although lactate nml).  Must also consider possible hemolysis
   or internal bleed with coagulopathy.
   -monitor BP, UOP
   -stool guaiac
   - monitor q6 DIC, TLS labs:  D-dimer up from 7000s yesterday,
   fibrinogen slowly trending down
   .
   # Fever: Remains hemodynamically stable, cultures negative to date.
   Clinical picture is compounded leukemia which may be responsible for
   the above.  Awaiting results of cultures from BAL, blood and urine.
   - f/u cultures
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever given tachycardia, increase in metabolic demand
   .
   # Increased Cr: Bump from 0.8 to 1.3, likely secondary to chemo.
   Doesn
t appear to be dry.  Will monitor Cr and changed levaquin
   dosage.  Also likely responsible for increased K as pt being
   supplemented with K per NG and is likely not metabolizing as well.
   - monitor Cr
   - monitor UOP, IVF bolus as needed to maintain >30cc/hr
   - continues to receive 100cc/hr NS
   .
   # Leukemia: With likely AML, awaiting cytogenetics.  Heme/onc is on
   board
   - Dexamethasone, idarubacin, cytarabine as per heme onc
   - TLS, DIC labs q6 hours
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 10K
   - IVF with NS
   # Metabolic acidosis: likely [**2-12**] IV fluids or lactate, but can also be
   response to chronic respiratory alkalosis
   - check ABG
   - use lactated ringers instead of normal saline
   .
   # FEN: Replete electrolytes, TF
   .
   # Prophylaxis: p-boots, PPI
   .
   # Access: peripherals, RIJ, a-line
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-14**] 09:37 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-08-15 12:33:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pnemonia, leukemia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PCP negative on BAL
   Attempt made to ventilate patient last night with ARDSnet protocol.
   Patient did not tolerate low tidal volumes and efforts to sedate her
   led to hypotension. Continues to pull very large tidal volumes on
   relatively small amounts of pressure support.
   Continues to be febrile.
   24 Hour Events:
 BRONCHOSCOPY - At [**2153-8-14**] 02:51 PM
 BLOOD CULTURED - At [**2153-8-15**] 03:15 AM
 URINE CULTURE - At [**2153-8-15**] 03:15 AM
 FEVER - 102.2
F - [**2153-8-15**] 04:00 AM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Micafungin - [**2153-8-14**] 01:00 PM
   Levofloxacin - [**2153-8-14**] 07:18 PM
   Metronidazole - [**2153-8-15**] 07:45 AM
   Vancomycin - [**2153-8-15**] 08:00 AM
   Cefipime - [**2153-8-15**] 08:30 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-14**] 02:10 PM
   Fentanyl - [**2153-8-14**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-15**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 38.6
C (101.5
   HR: 124 (90 - 124) bpm
   BP: 121/58(76) {93/48(61) - 121/58(76)} mmHg
   RR: 20 (10 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.2 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 306 (13 - 306)mmHg
   Total In:
                                                                  6,751 mL
                                                                  3,167 mL
   PO:
   TF:
                                                                     48 mL
                                                                    423 mL
   IVF:
                                                                  5,374 mL
                                                                  2,131 mL
   Blood products:
                                                                  1,119 mL
                                                                    493 mL
   Total out:
                                                                    832 mL
                                                                  1,120 mL
   Urine:
                                                                    832 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,919 mL
                                                                  2,047 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 932 (673 - 932) mL
   PS : 5 cmH2O
   RR (Set): 17
   RR (Spontaneous): 12
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: ///20/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : Diffuse
   expiratory wheeze, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   45 K/uL
   148 mg/dL
   1.3 mg/dL
   20 mEq/L
   5.2 mEq/L
   56 mg/dL
   113 mEq/L
   144 mEq/L
   23.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2153-8-14**]  01:17 AM
                             [**2153-8-14**]  02:26 AM
                             [**2153-8-14**]  04:08 AM
                             [**2153-8-14**]  05:51 AM
                             [**2153-8-14**]  12:01 PM
                             [**2153-8-14**]  03:30 PM
                             [**2153-8-14**]  07:09 PM
                             [**2153-8-14**]  11:29 PM
                             [**2153-8-15**]  03:31 AM
                             [**2153-8-15**]  09:39 AM
   WBC
   21.5
   20.6
   13.7
   8.7
   8.4
   8.5
   Hct
   19.7
   20.3
   24.4
   24.2
   24.8
   23.7
   Plt
   53
   45
   7
   31
   13
   17
   45
   Cr
   0.8
   1.3
   TCO2
   23
   23
   24
   Glucose
   125
   148
   Other labs: PT / PTT / INR:16.5/31.4/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:60.0 %, Band:0.0 %, Lymph:13.0 %,
   Mono:19.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 7578**] ng/mL, Fibrinogen:303 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:523 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR: mild improvement in diffuse alveolawr infiltrates.
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   ACUTE RENAL FAILURE
   =========================================
   Patient unable to tolerate low tidal volume vent strategy. Now pulling
   1 L tidal volumes on PSV 5. With CXR improvement, I feel less concerned
   about using the low tidal volume strategy; still not clear that she has
   pathologic diffuse alveolar damage. Issue of leukemic infiltrates
   remains a possibility. Diffuse expiratory wheeze is new. By CVP does
   not appear to be volume overloaded. Will continue with bronchodilators.
   Have reduced FIO2 to 0.4 and PEEP to 10.
   Creat elevated. Monitor urine output. Give fluids as needed.
   Hct stable. Not at transfusion threshold now.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-14**] 09:37 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-08-16 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 104.7
F - [**2153-8-16**] 01:00 AM
   - Changed to SIMV @ 2040: TV 700ml, RR 22, PSV 7, PEEP 10, 40% FiO2,
   Minute Vent 15.1 L, PIP 38, Plateau 27
   - Received 1 unit PRBCs for Hct 21
 23.7
   - Received 4 units platelets for Plt 8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Micafungin - [**2153-8-14**] 01:00 PM
   Levofloxacin - [**2153-8-15**] 07:24 PM
   Vancomycin - [**2153-8-15**] 07:24 PM
   Metronidazole - [**2153-8-15**] 11:00 PM
   Cefipime - [**2153-8-15**] 11:15 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-15**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.7
   Tcurrent: 38.9
C (102
   HR: 86 (81 - 124) bpm
   BP: 125/52(74) {102/48(63) - 132/58(79)} mmHg
   RR: 22 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.2 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 13 (13 - 306)mmHg
   Total In:
                                                                  7,087 mL
                                                                  1,981 mL
   PO:
   TF:
                                                                  1,099 mL
                                                                    416 mL
   IVF:
                                                                  4,551 mL
                                                                  1,185 mL
   Blood products:
                                                                  1,317 mL
                                                                    380 mL
   Total out:
                                                                  2,650 mL
                                                                  1,020 mL
   Urine:
                                                                  2,650 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,437 mL
                                                                    961 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 1,729 (259 - 1,729) mL
   PS : 7 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/35/78.[**Numeric Identifier 274**]/20/-1
   Ve: 13.7 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General- Sedated, intubated in NAD
   Lungs- Clear to auscultation bilaterally with some end expiration
   wheezing
   Heart- S1S2, RRR, no m/r/g
   Abd- BS+ (weak), nontender, nondistended
   Ext- warm, well perfused
   Labs / Radiology
   59 K/uL
   7.7 g/dL
   221 mg/dL
   0.8 mg/dL
   20 mEq/L
   5.0 mEq/L
   50 mg/dL
   118 mEq/L
   146 mEq/L
   23.7 %
   2.4 K/uL
        [image002.jpg]
                             [**2153-8-15**]  03:26 PM
                             [**2153-8-15**]  07:08 PM
                             [**2153-8-15**]  07:18 PM
                             [**2153-8-15**]  08:48 PM
                             [**2153-8-15**]  10:44 PM
                             [**2153-8-16**]  02:52 AM
                             [**2153-8-16**]  04:51 AM
                             [**2153-8-16**]  04:55 AM
                             [**2153-8-16**]  05:15 AM
                             [**2153-8-16**]  05:52 AM
   WBC
   3.3
   2.1
   2.4
   Hct
   21.2
   23.2
   23.7
   Plt
   8
   34
   11
   59
   Cr
   0.9
   0.8
   TCO2
   23
   23
   21
   23
   22
   22
   Glucose
   192
   221
   Other labs: PT / PTT / INR:18.3/34.9/1.7, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:26.0 %, Band:0.0 %, Lymph:23.0 %,
   Mono:41.0 %, Eos:0.0 %, D-dimer:6439 ng/mL, Fibrinogen:192 mg/dL,
   Lactic Acid:3.3 mmol/L, Albumin:3.0 g/dL, LDH:367 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   BAL
 negative for pneumocystis, no AFB on smear, respiratory,
   legionella, and AF culture still pending
   UCx and BCx still pending
   CXR - Improvement of bilateral patchy infiltrates
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
    45 year old female presenting with new diagnosis of likely AML now
   with worsening hypoxia, fever, diffuse interstitial infiltrates on CT,
   and CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxemic respiratory distress: changed to and tolerating SIMV with
   TV 700ml, RR 22, PSV 7, PEEP 10, 40% FiO2, Minute Vent 15.1 L, PIP 38,
   Plateau 27.  Saturating in high 90s.  Pt has underlying emphysema
   compounding current picture.  CXR shows some improvement.  Differential
   includes infectious etiologies (viral/bacterial including superimposing
   nosocomial infection).  Given progression despite broad spectrum
   coverage, infiltrative leukemia is also on differential.
   - f/u results of BAL: galactomannan, cx, legionella
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   micafungin, metronidazole
   - f/u cultures
   - ABGs to assess oxygenation
   - Chemotherapy per oncology
   - continue nebulizers
   - maintain UOP>30cc/hr, bolus as needed
   - pressure control trial tonight for possible extubation tomorrow
   morning
   - ID consult for antibiotics management
   .
   # Hypotension:  Resolving. Had hypotension in setting of increased
   sedation for ARDSnet protocol AC control.  Previous hypotension and low
   UOP was possibly due to poor filling pressures from SVC/IVC
   compression.  Differential also includes hypovolemia from blood loss
   (although no clear e/o active bleeding), peripheral vasodilation from
   sepsis (although lactate nml).  Must also consider possible hemolysis
   or internal bleed with coagulopathy.
   -monitor BP, UOP
   - stool guaiac
   - monitor q6 DIC, TLS labs:  fibrinogen 192 today, FDP 40-80
   .
   # Fever: Fever of 104.7 overnight.  Remains hemodynamically stable,
   cultures negative to date.  Clinical picture is compounded leukemia
   which may be responsible for the above.  Awaiting results of cultures
   from BAL, blood and urine.
   - recultured this AM
   - f/u cultures
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever given tachycardia, increase in metabolic demand
   - ID consult for antibiotics management
   .
   # Increased Cr: improved from 1.3 to 0.8 today, likely secondary to
   chemo.  Doesn
t appear to be dry.  Will monitor Cr and changed levaquin
   dosage.
   - monitor Cr
   - monitor UOP, IVF bolus as needed to maintain >30cc/hr
   - d/c bicarb drip
   - start 1 L LR bolus
   - calculate free water deficit, correct using D5W
   - d/c lasix drip
   .
   # Leukemia: With likely AML, awaiting cytogenetics.  Heme/onc is on
   board
   - Dexamethasone, idarubacin, cytarabine as per heme onc
   - TLS, DIC labs q6 hours
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   - IVF with LR
   .
   # Metabolic acidosis: likely [**2-12**] IV fluids or lactate, but can also be
   response to chronic respiratory alkalosis
   - check ABG
   - use lactated ringers instead of normal saline
   .
   # Bowel regiment
   - start on lactulose
   - Stool culture to check for C. diff
   .
   # FEN: Replete electrolytes, TF
   .
   # Prophylaxis: p-boots, PPI
   .
   # Access: peripherals, RIJ, a-line
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-15**] 09:16 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-08-16 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, fever, pneumonia, leukemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ABG improved with good oxygenation on SIMV. Continues to have high
   fever.
   24 Hour Events:
 FEVER - 104.7
F - [**2153-8-16**] 01:00 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2153-8-14**] 03:51 AM
   Micafungin - [**2153-8-14**] 01:00 PM
   Levofloxacin - [**2153-8-15**] 07:24 PM
   Vancomycin - [**2153-8-16**] 07:45 AM
   Metronidazole - [**2153-8-16**] 07:50 AM
   Cefipime - [**2153-8-16**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-15**] 06:30 PM
   Other medications:
   allopurinol, flagyl, vanco, dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-16**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.4
C (104.7
   Tcurrent: 40.1
C (104.1
   HR: 97 (81 - 118) bpm
   BP: 127/57(77) {105/48(65) - 134/60(82)} mmHg
   RR: 18 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 346 (13 - 353)mmHg
   Total In:
                                                                  7,087 mL
                                                                  3,232 mL
   PO:
   TF:
                                                                  1,099 mL
                                                                    649 mL
   IVF:
                                                                  4,551 mL
                                                                  2,202 mL
   Blood products:
                                                                  1,317 mL
                                                                    380 mL
   Total out:
                                                                  2,650 mL
                                                                  1,700 mL
   Urine:
                                                                  2,650 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,437 mL
                                                                  1,532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 1,729 (259 - 1,729) mL
   PS : 7 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/38/96.[**Numeric Identifier 274**]/21/0
   Ve: 13.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Prolonged expiration, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   59 K/uL
   221 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.9 mEq/L
   46 mg/dL
   115 mEq/L
   147 mEq/L
   22.6 %
   1.6 K/uL
        [image002.jpg]
                             [**2153-8-15**]  07:18 PM
                             [**2153-8-15**]  08:48 PM
                             [**2153-8-15**]  10:44 PM
                             [**2153-8-16**]  02:52 AM
                             [**2153-8-16**]  04:51 AM
                             [**2153-8-16**]  04:55 AM
                             [**2153-8-16**]  05:15 AM
                             [**2153-8-16**]  05:52 AM
                             [**2153-8-16**]  09:34 AM
                             [**2153-8-16**]  10:16 AM
   WBC
   2.1
   2.4
   1.6
   Hct
   23.2
   23.7
   22.6
   Plt
   34
   11
   59
   Cr
   0.9
   0.8
   0.8
   TCO2
   23
   21
   23
   22
   22
   24
   Glucose
   192
   221
   Other labs: PT / PTT / INR:18.3/33.5/1.7, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:26.0 %, Band:0.0 %, Lymph:23.0 %,
   Mono:41.0 %, Eos:0.0 %, D-dimer:6439 ng/mL, Fibrinogen:150 mg/dL,
   Lactic Acid:3.6 mmol/L, Albumin:3.0 g/dL, LDH:346 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: clearing at left base relative to previous film.
   persistent infilrate at right base.
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   HYPERNATREMIA
   ============================================
   Patient's respiratory status slowly improving; CXR suggests that the
   infiltrate at left base may be slightly better.  Will continue on SIMV
   today and switch to PSV tonight for possible extubation tomorrow.
   BUN/Creat elevated and CVP is low. Will stop D5W with sodium
   bicarbonate (patient now hypernatremic) and use lactated Ringers for
   volume replacement.
   Persistent fevers despite other improvement. Some concern about drug
   fever at this time. Cultures from lines are all negative. Will consult
   ID service.
   Hct not at transfusion threshold. No significant bleeding.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-15**] 09:16 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2153-08-17 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 104.1
F - [**2153-8-16**] 10:00 AM
   -s/p 1 unit PRBCs for hct 21 -> 22.5
   -s/p 2 units plt for 6 -> 39
   -bradycardic to 50s with HTN around midnight correlated with lowered
   temps
   -suspicion for [**Location (un) 6003**] triad-> head CT- negative for bleed
   -given 2L free water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-16**] 12:15 PM
   Vancomycin - [**2153-8-16**] 08:21 PM
   Levofloxacin - [**2153-8-16**] 09:25 PM
   Cefipime - [**2153-8-17**] 12:14 AM
   Metronidazole - [**2153-8-17**] 12:40 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-17**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 36.8
C (98.3
   HR: 53 (51 - 97) bpm
   BP: 141/69(94) {127/54(77) - 153/86(111)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 75 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 21 (21 - 352)mmHg
   Total In:
                                                                  7,215 mL
                                                                  1,735 mL
   PO:
   TF:
                                                                  1,323 mL
                                                                    381 mL
   IVF:
                                                                  5,143 mL
                                                                    828 mL
   Blood products:
                                                                    659 mL
                                                                    436 mL
   Total out:
                                                                  3,440 mL
                                                                    560 mL
   Urine:
                                                                  3,440 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,775 mL
                                                                  1,175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 724 (182 - 1,729) mL
   PS : 7 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 45 cmH2O
   Plateau: 28 cmH2O
   Compliance: 43.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.49/29/102/20/0
   Ve: 15.3 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General- Sedated, intubated in NAD
   Lungs- Clear to auscultation bilaterally with some end expiration
   wheezing
   Heart- S1S2, RRR, 2/6 SEM
   Abd- BS+ (weak), nontender, distended
   Ext- arms slightly edematous b/l, warm, well perfused
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   39 K/uL
   7.3 g/dL
   243 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.8 mEq/L
   40 mg/dL
   113 mEq/L
   144 mEq/L
   22.5 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-16**]  05:52 AM
                             [**2153-8-16**]  09:34 AM
                             [**2153-8-16**]  10:16 AM
                             [**2153-8-16**]  04:00 PM
                             [**2153-8-16**]  04:23 PM
                             [**2153-8-16**]  09:28 PM
                             [**2153-8-16**]  09:41 PM
                             [**2153-8-17**]  12:55 AM
                             [**2153-8-17**]  03:52 AM
                             [**2153-8-17**]  04:44 AM
   WBC
   1.6
   0.8
   0.6
   0.5
   Hct
   22.6
   21.7
   21.0
   22.5
   Plt
   31
   22
   6
   57
   39
   Cr
   0.8
   0.7
   0.7
   0.5
   TCO2
   22
   24
   25
   25
   23
   Glucose
   194
   253
   243
   Other labs: PT / PTT / INR:19.5/35.3/1.8, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:26.0 %, Band:0.0 %, Lymph:23.0 %,
   Mono:41.0 %, Eos:0.0 %, D-dimer:5885 ng/mL, Fibrinogen:147 mg/dL,
   Lactic Acid:2.6 mmol/L, Albumin:3.0 g/dL, LDH:383 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.4 mg/dL
   Legionella negative
   Bcx, Ucx
 pending
   BAL
 no fungus, no legionella, no AFB
   CXR
 unchanged from yesterday, bibasilar hazy opacities
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   45 year old female presenting with new diagnosis of likely AML now with
   worsening hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxemic respiratory distress:  tolerated SIMV overnight with TV
   700ml, RR 22, PSV 7, PEEP 10, 40% FiO2, Minute Vent 15.1 L, PIP 38,
   Plateau 27.  Saturated in high 90s.  PaCO2 29 this AM.  Pt has
   underlying emphysema compounding current picture.  CXR shows some
   improvement.  Differential includes infectious etiologies
   (viral/bacterial including superimposing nosocomial infection).  Given
   progression despite broad spectrum coverage, infiltrative leukemia is
   also on differential.
   - changed RR to 17
   - f/u results of BAL: galactomannan, cx, legionella
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   micafungin, metronidazole
   - f/u cultures, new surveillance cultures for GPC on BCx
   - ABGs to assess oxygenation
   - Chemotherapy per oncology
   - continue nebulizers
   - maintain UOP>30cc/hr, bolus as needed
   - pressure control trial tonight for possible extubation tomorrow
   morning
   .
   # Hypotension:  Resolving. Had hypotension in setting of increased
   sedation for ARDSnet protocol AC control.  Previous hypotension and low
   UOP was possibly due to poor filling pressures from SVC/IVC
   compression.  Differential also includes hypovolemia from blood loss
   (although no clear e/o active bleeding), peripheral vasodilation from
   sepsis (although lactate nml).  Must also consider possible hemolysis
   or internal bleed with coagulopathy.
   - monitor BP, UOP
   - monitor q6 DIC, TLS labs:  fibrinogen 147 today, FDP 40-80, give cryo
   if fibrinogen is less than 100
   .
   # Fever: Fever of 104.1 overnight.  Remains hemodynamically stable.
   Clinical picture is compounded leukemia which may be responsible for
   the above.   BCx showed GPC.
   - recultured this AM
   - f/u cultures
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever given tachycardia, increase in metabolic demand
   .
   # Increased Cr: resolved, Cr 0.5 today.  Received 2L free water
   yesterday.
   - monitor Cr
   - monitor UOP, IVF bolus as needed to maintain >30cc/hr
   .
   # Leukemia: With likely AML, awaiting cytogenetics.  Heme/onc is on
   board
   - continue dexamethasone, idarubacin, cytarabine as per heme onc
   - TLS, DIC labs q6 hours
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   .
   # Metabolic acidosis: likely [**2-12**] IV fluids or lactate, but can also be
   response to chronic respiratory alkalosis
   - check ABG
   - use lactated ringers instead of normal saline
   .
   # Bowel regiment
 patient
s abdomen is distended and has not had BM
   - start on bisacodyl
   # Hyperglycemia
 blood sugar 243 today
   - start on Humalog sliding scale
   .
   # FEN: Replete electrolytes, TF
   .
   # Prophylaxis: p-boots, PPI
   .
   # Access: peripherals, RIJ, a-line
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-15**] 09:16 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: husband, son
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Addendum
 error: pt did not have GPC in blood culture.  All blood
   cultures negative to date.  Broad spectrum antibiotics will still be
   continued in light of febrile neutropenia.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7620**] [**Last Name (NamePattern1) 7621**], MD
   on:[**2153-8-17**] 12:55 ------

2153-08-17 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, anemia, leukemia, fever,
   pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient develloped hypertension with bradycardia yesterday; had head CT
   which was negative for acute processes/mass lesion. Remains in sinus
   bradycardia.
   Transfused RBCs and platelets yesterday. WBC remains low.
   Free water given for hypernatremia.
   Afebrile this morning.
   24 Hour Events:
 FEVER - 104.1
F - [**2153-8-16**] 10:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-16**] 12:15 PM
   Levofloxacin - [**2153-8-16**] 09:25 PM
   Cefipime - [**2153-8-17**] 07:45 AM
   Metronidazole - [**2153-8-17**] 08:00 AM
   Vancomycin - [**2153-8-17**] 08:20 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-17**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 37.3
C (99.1
   HR: 62 (51 - 97) bpm
   BP: 137/68(89) {127/57(77) - 156/86(111)} mmHg
   RR: 22 (18 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 21 (21 - 349)mmHg
   Total In:
                                                                  7,215 mL
                                                                  2,857 mL
   PO:
   TF:
                                                                  1,323 mL
                                                                    526 mL
   IVF:
                                                                  5,143 mL
                                                                  1,716 mL
   Blood products:
                                                                    659 mL
                                                                    436 mL
   Total out:
                                                                  3,440 mL
                                                                  1,180 mL
   Urine:
                                                                  3,440 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,775 mL
                                                                  1,677 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 724 (182 - 873) mL
   PS : 7 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 28 cmH2O
   Compliance: 43.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/31/108/20/1
   Ve: 15.5 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at left sternal border
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral fields)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   13 K/uL
   243 mg/dL
   0.5 mg/dL
   20 mEq/L
   4.8 mEq/L
   40 mg/dL
   113 mEq/L
   144 mEq/L
   23.4 %
   0.6 K/uL
        [image002.jpg]
                             [**2153-8-16**]  10:16 AM
                             [**2153-8-16**]  04:00 PM
                             [**2153-8-16**]  04:23 PM
                             [**2153-8-16**]  09:28 PM
                             [**2153-8-16**]  09:41 PM
                             [**2153-8-17**]  12:55 AM
                             [**2153-8-17**]  03:52 AM
                             [**2153-8-17**]  04:44 AM
                             [**2153-8-17**]  09:25 AM
                             [**2153-8-17**]  10:03 AM
   WBC
   0.8
   0.6
   0.5
   0.6
   Hct
   21.7
   21.0
   22.5
   23.4
   Plt
   22
   6
   57
   39
   13
   Cr
   0.7
   0.7
   0.5
   TCO2
   24
   25
   25
   23
   24
   Glucose
   194
   253
   243
   Other labs: PT / PTT / INR:19.5/35.3/1.8, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:26.0 %, Band:0.0 %, Lymph:23.0 %,
   Mono:41.0 %, Eos:0.0 %, D-dimer:5885 ng/mL, Fibrinogen:147 mg/dL,
   Lactic Acid:2.6 mmol/L, Albumin:3.0 g/dL, LDH:383 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR: further clearing of left lung. Right hemidiaphragm seen
   better than yesterday and air bronchograms slightly less prominent.
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ACUTE RESPIRATORY FAILURE
   =====================
   Patient now with respiratory alkalosis, which suggests that her
   alveolar dead space has decreased. We will decrese the respiratory
   frequency to achieve [**Last Name (un) 7619**]=40. CXR shows some clearing of the pulmonary
   infiltrates.
   Fever is down today and tachycardia has resolved. No new culture
   results. Consider removing anti-fungals with negative beta glucan.
   Serum sodium improved with free water repletion. Creat is normal.
   Abdominal distention likely due to constipation. Will consider mag
   citrate. Lactulose has not helped.
   Continue to monitor blood counts and transfuse as needed.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-08-18 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2153-8-17**] 12:53 PM
   .
   - changed from SIMV (V 700, RR 17, PS 7, PEEP 10, FiO2 40%) to PS (PS
   7, PEEP 10), then found to be desaturating/[**Last Name (LF) 7646**], [**First Name3 (LF) **] switched
   to AC. Pt looked more comfortable and was saturating in 90s
   -transfused 1 unit pRBCs and 2 units platelets this morning for Hct 20
   and  Plt 6.
   -Now with temperature 102^oF per NSG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-17**] 11:45 AM
   Vancomycin - [**2153-8-17**] 07:35 PM
   Levofloxacin - [**2153-8-17**] 08:28 PM
   Cefipime - [**2153-8-18**] 12:14 AM
   Metronidazole - [**2153-8-18**] 01:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-18**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 76 (60 - 76) bpm
   BP: 137/65(86) {128/50(77) - 167/92(113)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 250 (12 - 250)mmHg
   Total In:
                                                                  6,273 mL
                                                                  1,763 mL
   PO:
   TF:
                                                                  1,323 mL
                                                                    406 mL
   IVF:
                                                                  4,106 mL
                                                                  1,357 mL
   Blood products:
                                                                    664 mL
   Total out:
                                                                  2,370 mL
                                                                  1,505 mL
   Urine:
                                                                  2,370 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,903 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 700) mL
   Vt (Spontaneous): 834 (817 - 834) mL
   PS : 7 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.50/37/78/27/4 (metab alkalosis due to bicar)
   Ve: 11 L/min
   PaO2 / FiO2: 195
   Satting 93% on AC with 500x20 at FiO2 40% and Peep 10.
   Physical Examination
   General- Sedated, intubated in NAD
   HEENT: Scleral edema b/l
   Lungs- palpable ronchi; Diffuse ronchi
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+ (weak), nontender, distended
   Ext- arms slightly edematous b/l, warm, well perfused
   Labs / Radiology
   6 K/uL
   6.8 g/dL
   249 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.3 mEq/L
   35 mg/dL
   109 mEq/L
   144 mEq/L
   20.0 %
   0.4 K/uL
        [image002.jpg]
   [**2153-8-18**] at 4:26AM
                             [**2153-8-17**]  09:25 AM
                             [**2153-8-17**]  10:03 AM
                             [**2153-8-17**]  12:18 PM
                             [**2153-8-17**]  01:13 PM
                             [**2153-8-17**]  05:16 PM
                             [**2153-8-17**]  07:32 PM
                             [**2153-8-17**]  09:48 PM
                             [**2153-8-18**]  12:19 AM
                             [**2153-8-18**]  04:26 AM
                             [**2153-8-18**]  04:40 AM
   WBC
   0.6
   0.7
   0.7
   0.4
   0.4
   Hct
   23.4
   22.7
   22.1
   20.6
   20.0
   Plt
   13
   10
   21
   15
   6
   Cr
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   24
   27
   27
   27
   30
   Glucose
   263
   244
   228
   265
   249
   Other labs: PT / PTT / INR:18.8/32.4/1.7, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:16.0 %, Band:0.0 %, Lymph:64.0 %,
   Mono:20.0 %, Eos:0.0 %, D-dimer:7015 (
7854) ng/mL, Fibrinogen:124
   (
144) mg/dL, Lactic Acid:2.6 mmol/L, Albumin:3.0 g/dL, LDH:224 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.3 mg/dL, PO4:2.9 mg/dL
   .
   BAL: negative for PCP, [**Name10 (NameIs) 7647**],  AFB; legionella pending
   C diff negative
   .
   Urine legionella negative
   .
   Ucx [**8-16**]
 No growth
   .
   BCx  [**8-12**]/, [**8-15**], [**8-16**]
 NGTD
   .
   CXR [**2153-8-18**]: worsening of interstitial opacities
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   .
   45 year old female presenting with new diagnosis of likely AML now with
   continued hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxic respiratory distress: Pt changed to AC overnight with
   increased saturations and comfort. Pt has underlying emphysema
   compounding current picture.  CXR shows some worsening and pt has
   increased sputum per NSG.  Differential includes infectious etiologies
   (viral/bacterial including superimposing nosocomial infection) vs pulm
   edema as pt appears volume overloaded on exam.  Given progression
   despite broad spectrum coverage, infiltrative leukemia is also on
   differential.
   -Continue AC with ABGs to assess oxygenation
   - Lasix 40mg IV x1 with goal 1L negative
   - f/u results of BAL: galactomannan, cx, legionella
   - d/c
d micafungin per ID recs
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   metronidazole
   - f/u BCx
   - continue nebulizers
   .
   # L cerebellar lesion
 small lesion which may be infarct. No acute
   hemorrhage. Unable to perform neuro exam.
   -repeat CT head today to ensure it is not growing
   .
   # Fever: Low grade fever 99-100 overnight with temp spike to 102..
   Remains hemodynamically stable.  Clinical picture is confounded by
   leukemia which may be responsible for the above.
   - f/u cultures
   -New BCx, Ucx, Sputum Cx for 102 temp spike
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever, cooling blankets given tachycardia, increase
   in metabolic demand
   .
   # Metabolic alkalosis
 pt receiving bicarb as part of tumor lysis
   protocol per Oncology; per NSG, it is not part of onc protocol
   -will d/w Oncology re: need for bicarb
   .
   # Hypotension:  Resolved. Pt with SBP 120s-160s overnight.
   - monitor BP, UOP
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following.
   - continue dexamethasone, idarubacin, cytarabine as per heme onc
   - d/w Oncology need for TLS, DIC labs q6 hours
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   .
   # Constipation
 Pt had BM yesterday
   - continue bowel regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-15**] 09:16 PM 55 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R sublcavian - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-13**] 10:30 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-08-19 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.8
F - [**2153-8-18**] 09:00 AM
   -received 1 unit cells and 2 units platelets [**8-18**] AM.
   -received vitamin K 5mg PO for elevated INR (1.7), nl aPTT
   -transfused 1 Unit platelets and 1 unit cells for Plt 19 (-->39) and
   Hct 212--> 21.9.
   -received total lasix 80mg IV with I/O negative 2.9L at midnight.
   Positive 500cc since midnight.
   -received 1 unit blood (21.2-->21.9) and 1 unit platelets at 4am. (plts
   18 --> 25)
   -last ABG: 7.50/45/103/26 (metab alkalosis). Alkalotic but no changes
   made to vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-17**] 11:45 AM
   Levofloxacin - [**2153-8-18**] 08:03 PM
   Vancomycin - [**2153-8-18**] 09:00 PM
   Cefipime - [**2153-8-18**] 11:40 PM
   Metronidazole - [**2153-8-19**] 12:45 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-18**] 12:00 PM
   Furosemide (Lasix) - [**2153-8-18**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-19**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.9
C (98.4
   HR: 69 (64 - 85) bpm
   BP: 121/60(78) {114/55(72) - 149/78(98)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 14 (11 - 250)mmHg
   Total In:
                                                                  5,947 mL
                                                                  1,209 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    368 mL
   IVF:
                                                                  3,364 mL
                                                                    273 mL
   Blood products:
                                                                  1,212 mL
                                                                    568 mL
   Total out:
                                                                  8,795 mL
                                                                    710 mL
   Urine:
                                                                  8,795 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,848 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.50/45/103/31/10
   Ve: 9.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General- Sedated, intubated in NAD
   HEENT: Scleral edema b/l
   Lungs- palpable rhonchi; Diffuse rhonchi
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+ (weak), nontender, distended
   Ext- arms slightly edematous b/l, warm, well perfused
   Labs / Radiology
   25 K/uL
   7.3 g/dL
   142 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   32 mg/dL
   104 mEq/L
   143 mEq/L
   21.9 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-18**]  12:19 AM
                             [**2153-8-18**]  04:26 AM
                             [**2153-8-18**]  04:40 AM
                             [**2153-8-18**]  10:11 AM
                             [**2153-8-18**]  11:05 AM
                             [**2153-8-18**]  05:54 PM
                             [**2153-8-18**]  09:53 PM
                             [**2153-8-19**]  03:54 AM
                             [**2153-8-19**]  04:15 AM
                             [**2153-8-19**]  05:52 AM
   WBC
   0.4
   0.4
   0.5
   0.5
   Hct
   20.6
   20.0
   21.2
   21.9
   Plt
   15
   6
   39
   19
   39
   18
   25
   Cr
   0.6
   0.5
   0.5
   TCO2
   30
   32
   36
   Glucose
   265
   249
   142
   Other labs: PT / PTT / INR:16.9/31.4/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:7015 ng/mL, Fibrinogen:188 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.0 g/dL, LDH:224 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   .
   BAL: negative for PCP, [**Name10 (NameIs) 7647**],  AFB, legionella; AFB cx pending
   C diff negative
   .
   Urine legionella negative
   .
   Ucx [**8-16**]
 No growth
   .
   BCx  [**8-12**]/, [**8-15**], [**8-16**]
 NGTD
   .
   CXR [**2153-8-18**]: worsening of interstitial opacities; [**8-19**] pending
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   45 year old female presenting with new diagnosis of likely AML now with
   continued hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxic respiratory distress: Pt changed to AC overnight with
   increased saturations and comfort. Pt has underlying emphysema
   compounding current picture.  CXR shows some worsening and pt has
   increased sputum per NSG.  Differential includes infectious etiologies
   (viral/bacterial including superimposing nosocomial infection) vs pulm
   edema as pt appears volume overloaded on exam.  Given progression
   despite broad spectrum coverage, infiltrative leukemia is also on
   differential.
   -Continue AC with ABGs to assess oxygenation
   - Lasix 40mg IV x1 with goal 1L negative
   - f/u results of BAL: galactomannan, cx, legionella
   - d/c
d micafungin per ID recs
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   metronidazole
   - f/u BCx
   - continue nebulizers
   .
   # L cerebellar lesion
 small lesion which may be infarct. No acute
   hemorrhage. Unable to perform neuro exam.
   -Repeat CT head showed acute infart - radiology rec MRI
   .
   # Fever: Low grade fever 99-100 overnight with temp spike to 102..
   Remains hemodynamically stable.  Clinical picture is confounded by
   leukemia which may be responsible for the above.
   - f/u cultures
   -New BCx, Ucx, Sputum Cx for 102 temp spike
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever, cooling blankets given tachycardia, increase
   in metabolic demand
   .
   # Metabolic alkalosis
 pt receiving bicarb as part of tumor lysis
   protocol per Oncology; per NSG, it is not part of onc protocol
   -per Onc: stopped bicarb as pt is past tumor lysis stage (tumor has
   been lysed) and pt alkalotic.
   .
   # Hypotension:  Resolved. Pt with SBP 120s-160s overnight.
   - monitor BP, UOP
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following.
   - continue dexamethasone, idarubacin, cytarabine as per heme onc
   -Continue q12h CBC/aPTT/INR/Fibrinogen; can stop checking FDP, D-dimer,
   uric acid as pt is past tumor lysis stage
   -If fibrinogen <100, give cryoprecipitate
   -if INR continues to rise, give FFP
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   .
   # Constipation
BMs yesterday, now off lactulose
   - continue bowel regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-19**] 12:58 AM 55 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-08-19 10:44:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pancytopenia, pneumonia,
   acute leukemia, alkalosis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient received 3 units of PRBCs yesterday as well as transfusion of
   platelets.
   No changes in respiratory status; remains on assist control and 40%
   oxygen. O2 sats somewhat better with diuresis.
   CT scan shows evidence of infarction.
   24 Hour Events:
 FEVER - 102.8
F - [**2153-8-18**] 09:00 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-17**] 11:45 AM
   Levofloxacin - [**2153-8-18**] 08:03 PM
   Vancomycin - [**2153-8-19**] 08:00 AM
   Cefipime - [**2153-8-19**] 08:30 AM
   Metronidazole - [**2153-8-19**] 08:30 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-18**] 12:00 PM
   Furosemide (Lasix) - [**2153-8-18**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-19**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (64 - 84) bpm
   BP: 130/71(91) {114/55(72) - 149/78(98)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.4 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 315 (11 - 315)mmHg
   Total In:
                                                                  5,947 mL
                                                                  2,226 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    529 mL
   IVF:
                                                                  3,364 mL
                                                                    911 mL
   Blood products:
                                                                  1,212 mL
                                                                    726 mL
   Total out:
                                                                  8,795 mL
                                                                  1,320 mL
   Urine:
                                                                  8,795 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,848 mL
                                                                    906 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.50/45/103/31/10
   Ve: 9.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral fields, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   25 K/uL
   142 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   32 mg/dL
   104 mEq/L
   143 mEq/L
   21.9 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-18**]  12:19 AM
                             [**2153-8-18**]  04:26 AM
                             [**2153-8-18**]  04:40 AM
                             [**2153-8-18**]  10:11 AM
                             [**2153-8-18**]  11:05 AM
                             [**2153-8-18**]  05:54 PM
                             [**2153-8-18**]  09:53 PM
                             [**2153-8-19**]  03:54 AM
                             [**2153-8-19**]  04:15 AM
                             [**2153-8-19**]  05:52 AM
   WBC
   0.4
   0.4
   0.5
   0.5
   Hct
   20.6
   20.0
   21.2
   21.9
   Plt
   15
   6
   39
   19
   39
   18
   25
   Cr
   0.6
   0.5
   0.5
   TCO2
   30
   32
   36
   Glucose
   265
   249
   142
   Other labs: PT / PTT / INR:16.9/31.4/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:7015 ng/mL, Fibrinogen:188 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:3.0 g/dL, LDH:224 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   PNEUMONIA
   =======================
   Oxygenation improved with diuresis. Would keep fluid balance even to
   0.5 L negative today. Will decrease PEEP to 8; if sats are stable,
   reduce futher to 5 cm H2O. If patient's oxygenation remains stable,
   consider trial on PSV.
   Repeat CT suggests that there is a cerebellar infarct. Will get an echo
   to assess for clot and vegetation on valve and PFO for paradoxical
   embolism. Will likely need TEE if TTE negative. Neuro to be consulted.
   Hct remains low. Will need additional transfusions today.
   Antibiotics continue.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-19**] 12:58 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-08-20 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2153-8-19**] 03:00 PM
   -consulted neurology about real, embolic looking evolving cbl lesion
   -CTA head and neck done showing no source for cbl infarct
   -NPO after midnight for TEE tomorrow to eval for endocarditis as
   possible source- need to page cards in AM
   -switched to CPAP/PS 14 PS 5 PEEP .4 FiO2
   - s/p 1 dose of lasix 40mg IV
   s/p 1 unit plt and 1 unit RBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-8-17**] 11:45 AM
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Vancomycin - [**2153-8-19**] 09:26 PM
   Cefipime - [**2153-8-20**] 12:00 AM
   Metronidazole - [**2153-8-20**] 12:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-8-19**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-20**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 73 (68 - 106) bpm
   BP: 86/30(48) {86/22(40) - 147/71(94)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.5 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 17 (10 - 315)mmHg
   Total In:
                                                                  4,533 mL
                                                                  2,489 mL
   PO:
   TF:
                                                                  1,285 mL
                                                                     10 mL
   IVF:
                                                                  1,961 mL
                                                                  1,898 mL
   Blood products:
                                                                  1,147 mL
                                                                    581 mL
   Total out:
                                                                  5,610 mL
                                                                  1,050 mL
   Urine:
                                                                  5,610 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,077 mL
                                                                  1,439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 548 (548 - 684) mL
   PS : 0 cmH2O
   RR (Set): 15
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.54/39/248/31/10
   Ve: 9.6 L/min
   PaO2 / FiO2: 620
   Physical Examination
   General- Sedated, intubated in NAD
   HEENT: Scleral edema b/l
   Lungs- palpable rhonchi; Diffuse rhonchi
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+ (weak), nontender, distended
   Ext- arms slightly edematous b/l, warm, well perfused
   Labs / Radiology
   22 K/uL
   7.7 g/dL
   142 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   29 mg/dL
   103 mEq/L
   140 mEq/L
   22.3 %
   0.4 K/uL
        [image002.jpg]
                             [**2153-8-18**]  05:54 PM
                             [**2153-8-18**]  09:53 PM
                             [**2153-8-19**]  03:54 AM
                             [**2153-8-19**]  04:15 AM
                             [**2153-8-19**]  05:52 AM
                             [**2153-8-19**]  01:23 PM
                             [**2153-8-19**]  03:06 PM
                             [**2153-8-19**]  06:12 PM
                             [**2153-8-19**]  10:34 PM
                             [**2153-8-19**]  11:26 PM
   WBC
   0.5
   0.5
   0.4
   0.3
   0.4
   Hct
   21.2
   21.9
   25.6
   24.2
   22.3
   Plt
   19
   39
   18
   25
   50
   33
   22
   Cr
   0.5
   0.4
   TCO2
   36
   35
   34
   Glucose
   142
   Other labs: PT / PTT / INR:16.9/31.4/1.5, ALT / AST:18/12, Alk Phos / T
   Bili:159/0.5, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:7015 ng/mL, Fibrinogen:188 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:224 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   .
   Assessment and Plan
   45 year old female presenting with new diagnosis of likely AML now with
   continued hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxic respiratory distress: Continues on AC.  Pulmonary edema
   improved on CXR with good oxygenation on PEEP 10 and FiO2 0.4.
   Differential includes infectious etiologies (viral/bacterial including
   superimposing nosocomial infection) vs pulm edema as pt appears volume
   overloaded on exam.  Given progression despite broad spectrum coverage,
   infiltrative leukemia is also on differential.
   -Continue AC with ABGs to assess oxygenation
   - decrease PEEP to 8 and decrease rate to see how she does; then try to
   decrease PEEP to 5 with new ABG
   - Lasix 40mg IV x1 with goal even/-500 cc
   - f/u results of BAL: galactomannan, cx, legionella
   - d/c
d micafungin per ID recs
   - continue broad spectrum coverage including vanc, cefepime, levoflox,
   metronidazole
   - f/u BCx
   - continue nebulizers
   .
   # L cerebellar lesion
 Repeat CT showed small lesion calling acute
   infarct. No acute hemorrhage. Unable to perform neuro exam.
   -radiology and heme/onc suggesting MRI/MRA but will hold for now as
   will not change management
   -Echo to eval for endocarditis as source
   -neurology consult
   .
   # Fever: Spiked to [**Age over 90 **] yesterday.  Remains hemodynamically stable.
   Clinical picture is confounded by leukemia which may be responsible for
   the above.
   - f/u cultures
   -New BCx, Ucx, Sputum Cx for 102 temp spike
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever, cooling blankets given tachycardia, increase
   in metabolic demand
   .
   # Metabolic alkalosis
 Pt received bicarb as part of tumor lysis
   protocol per Oncology but was d/c yesterday as pt is past tumor lysis
   stage (tumor has been lysed).  [**Month (only) 11**] have component of contraction
   alkalosis as well given great response (8.8L of UOP) to lasix
   yesterday.
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following.
   - continue dexamethasone, idarubacin, cytarabine as per heme onc
   -Continue q12h CBC/aPTT/INR/Fibrinogen; can stop checking FDP, D-dimer,
   uric acid as pt is past tumor lysis stage
   -received vitamin K 5mg PO for elevated INR (1.7), nl aPTT
   -if INR continues to rise, give FFP
   -If fibrinogen <100, give cryoprecipitate
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   .
   # Constipation
BMs yesterday, now off lactulose
   - continue bowel regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-19**] 12:58 AM 55 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-08-20 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, leukemia,
   pancytopenia, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Transfused RBCs and platelets yesterday.
   BP down during the night and was resistant to 2L of fluids. Levophed
   started. Dose has been reduced this AM. Patient had been diuresed
   aggressively yesterday.
   Oxygenation remains good on PSV.
   24 Hour Events:
 FEVER - 101.1
F - [**2153-8-19**] 03:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Cefipime - [**2153-8-20**] 07:30 AM
   Metronidazole - [**2153-8-20**] 08:02 AM
   Vancomycin - [**2153-8-20**] 09:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-20**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98
   HR: 56 (56 - 106) bpm
   BP: 122/47(73) {86/22(40) - 147/70(94)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 220 (10 - 310)mmHg
   Total In:
                                                                  4,533 mL
                                                                  3,547 mL
   PO:
   TF:
                                                                  1,285 mL
                                                                     10 mL
   IVF:
                                                                  1,961 mL
                                                                  2,955 mL
   Blood products:
                                                                  1,147 mL
                                                                    581 mL
   Total out:
                                                                  5,610 mL
                                                                  1,560 mL
   Urine:
                                                                  5,610 mL
                                                                  1,560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,077 mL
                                                                  1,987 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (506 - 684) mL
   PS : 14 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.54/39/248/29/10
   Ve: 10.4 L/min
   PaO2 / FiO2: 620
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess with ETT, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   27 K/uL
   109 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   23.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2153-8-18**]  09:53 PM
                             [**2153-8-19**]  03:54 AM
                             [**2153-8-19**]  04:15 AM
                             [**2153-8-19**]  05:52 AM
                             [**2153-8-19**]  01:23 PM
                             [**2153-8-19**]  03:06 PM
                             [**2153-8-19**]  06:12 PM
                             [**2153-8-19**]  10:34 PM
                             [**2153-8-19**]  11:26 PM
                             [**2153-8-20**]  07:36 AM
   WBC
   0.5
   0.4
   0.3
   0.4
   0.3
   Hct
   21.9
   25.6
   24.2
   22.3
   23.8
   Plt
   39
   18
   25
   50
   33
   22
   27
   Cr
   0.5
   0.4
   0.2
   TCO2
   36
   35
   34
   Glucose
   142
   109
   Other labs: PT / PTT / INR:16.3/33.3/1.4, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:6279 ng/mL, Fibrinogen:347 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:147 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ======================
   Oxygenation improving. With present level of sedation, patient can
   double her tidal volume on PSV. Will reduce sedation and assess for
   possible extubation.
   Hypotension likely related to diuresis. Fluids given back; trying to
   wean levophed now. Reducing sedation.
   Remains febrile. Antibiotics being adjusted; checking for possible drug
   fever.
   CTA negative re: CVA. Transthoracic echo negative for vegetation.
   Trans-esophageal echo will be pursued for possible vegetation on valve.
   Metabolic alkalosis likely secondary to duresis; will replete KCl.
   Continue to support hct and platelets with transfusions.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-08-21 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-8-20**] 10:34 AM
   .
   - transfused 1 unit platelets 11-->31
   - levophed running at 0.04mcg
   -BAL cx grew aspergillus
 started on variconazole yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Metronidazole - [**2153-8-20**] 08:02 AM
   Vancomycin - [**2153-8-20**] 08:50 PM
   Cefipime - [**2153-8-21**] 12:42 AM
   Voriconazole - [**2153-8-21**] 06:33 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-20**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-21**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 72 (54 - 90) bpm
   BP: 139/69(30) {67/29(30) - 139/69(80)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 14 (14 - 220)mmHg
   Total In:
                                                                  4,663 mL
                                                                    551 mL
   PO:
   TF:
                                                                     10 mL
   IVF:
                                                                  3,831 mL
                                                                    353 mL
   Blood products:
                                                                    822 mL
                                                                    198 mL
   Total out:
                                                                  2,695 mL
                                                                    720 mL
   Urine:
                                                                  2,345 mL
                                                                    720 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,968 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 598 (506 - 602) mL
   PS : 14 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 7.7 L/min
   SaO2 98% on CPAP/PS with FiO2 40% at 14/5. No ABG.
   Physical Examination
   General- Intubated but following commands with open eyes, appearing
   comfortable in NAD
   HEENT: Scleral edema b/l
   Lungs- Diffuse rhonchi
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+ (weak), nontender, distended
   Ext- arms slightly edematous b/l, warm, well perfused
    Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.6 g/dL
   98 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   139 mEq/L
   22.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-19**]  01:23 PM
                             [**2153-8-19**]  03:06 PM
                             [**2153-8-19**]  06:12 PM
                             [**2153-8-19**]  10:34 PM
                             [**2153-8-19**]  11:26 PM
                             [**2153-8-20**]  07:36 AM
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
   WBC
   0.4
   0.3
   0.4
   0.3
   0.4
   0.5
   Hct
   25.6
   24.2
   22.3
   23.8
   25.3
   23.9
   22.2
   Plt
   50
   33
   22
   27
   11
   31
   15
   27
   Cr
   0.4
   0.2
   0.3
   0.3
   TCO2
   35
   34
   Glucose
   109
   123
   98
   Other labs: PT / PTT / INR:15.4/30.3/1.3 (
1.4), ALT / AST:18/12, Alk
   Phos / T Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0
   %, Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:444 (
435)
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   .
   CXR [**2153-8-21**]: Our read: supine film
 increased haziness at diaphragm
   most likely layering of pleural effusions; persistent pulmonary
   vascular congestion; air bronchograms in RLL
   .
   [**8-18**]/ Sputum cx: no growth
   .
   BCx [**8-15**]/ and [**8-16**]: NGTD
   .
   Echo (TTE): no vegetations; no change from [**2153-8-9**]
   .
   Echo (TEE): no vegetations; no shunts.
   .
   Galactomannan [**2153-8-14**]: postiive; resent [**2153-8-20**]
   .
   KUB: our read: no air fluid levels; little gas in bowel
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   .
   45 year old female presenting with new diagnosis of likely AML now with
   continued hypoxia, fever, diffuse interstitial infiltrates on CT, and
   CXR concerning for pleural effusion and alveolar infiltrate
   .
   # Hypoxic respiratory distress:  Doing well on CPAP/PS with minimal
   oxygenation requirements and good minute ventilations.  Differential
   includes infectious etiologies (viral/bacterial including superimposing
   nosocomial infection) vs pulm edema as pt appears volume overloaded on
   exam.  Given progression despite broad spectrum coverage, infiltrative
   leukemia is also on differential.  Pt has been on ventilatory for a
   while and will have developed muscle weakness.
   -Will start weaning protocol
sprint/rest
 to increase muscle strength
   in preparation for extubation in 2-3d.
   - Continue voriconazole for aspergillus infection
   - F/u BCx
   - continue broad spectrum coverage including vanc, cefepime
   - diurese to 1L negative today
 will do lasix 40mg IV boluses
   - Replete electrolytes PRN
   - continue nebulizers
   .
   # L cerebellar lesion
 L cerebellar infarct seen on CT.  No source or
   thrombus seen on CTA head and neck.
   -Appreciate neuro recs
   -MRI/MRA head and neck today
   .
   # Fever: Afebrile overnight.
   - f/u cultures
   - continue antibiotics as above
   - chemotherapy per oncology
   - ATC tylenol for fever, cooling blankets given tachycardia, increase
   in metabolic demand
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following.
   - f/u heme/onc recs
   - q12h CBC
 if pt needs frequent transfusions, will increase to q6h
   - daily INR / Fibrinogen; no need to check FDP / D-dimer / Uric acid as
   pt is past tumor lysis stage
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-8-19**] 12:58 AM 55 mL/hour after TEE
   finished
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R Subclavian - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-08-21 09:56:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, pneumonia,
   CVA, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BAL culture grew aspergillous. Antifungals (voriconazole) started.
   Has come off levophed this morning.
   TTE did not show any vegetations.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-8-20**] 10:34 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Metronidazole - [**2153-8-20**] 08:02 AM
   Vancomycin - [**2153-8-20**] 08:50 PM
   Voriconazole - [**2153-8-21**] 06:33 AM
   Cefipime - [**2153-8-21**] 08:02 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-8-20**] 05:42 PM
   Pantoprazole (Protonix) - [**2153-8-21**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-21**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 75 (54 - 90) bpm
   BP: 128/65(84) {67/29(30) - 139/69(85)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
   CVP: 14 (14 - 17)mmHg
   Total In:
                                                                  4,663 mL
                                                                    686 mL
   PO:
   TF:
                                                                     10 mL
   IVF:
                                                                  3,831 mL
                                                                    488 mL
   Blood products:
                                                                    822 mL
                                                                    198 mL
   Total out:
                                                                  2,695 mL
                                                                    865 mL
   Urine:
                                                                  2,345 mL
                                                                    865 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,968 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 567 (506 - 598) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Coarse breath sounds bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   27 K/uL
   98 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   139 mEq/L
   22.2 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-19**]  01:23 PM
                             [**2153-8-19**]  03:06 PM
                             [**2153-8-19**]  06:12 PM
                             [**2153-8-19**]  10:34 PM
                             [**2153-8-19**]  11:26 PM
                             [**2153-8-20**]  07:36 AM
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
   WBC
   0.4
   0.3
   0.4
   0.3
   0.4
   0.5
   Hct
   25.6
   24.2
   22.3
   23.8
   25.3
   23.9
   22.2
   Plt
   50
   33
   22
   27
   11
   31
   15
   27
   Cr
   0.4
   0.2
   0.3
   0.3
   TCO2
   35
   34
   Glucose
   109
   123
   98
   Other labs: PT / PTT / INR:15.4/30.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:444 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: air bronchograms at right base. Bilateral haziness likely
   related to pleural effusions.
   KUB: non specific gas pattern. No dilated bowel.
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ====================
   Afebrile yesterday. Voriconazole started for aspergillous in BAL.
   Galactomanan sent.
   Patient comfortable on ventilator. BP improved today. Will begin
   diuresis again with goal of 1L negative fluid balance.  Begin
   "sprint/rest" weaning protocol today. Phosphate okay; serum potassium
   better.
   Platelet transfusion today for count < 20K.
   Hct nearing transfuion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-08-22 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2153-8-21**] 12:32 PM
   .
   -Goal: 1L negative --> pt diuresed -3.8L by 2100 after 40mg IV lasix at
   1400.
   .
   -Tolerated PS at 5/5 very well. Put on AC (500 x 15 with FiO2 40% and
   PEEP 5) overnight to rest her. Will attempt extubation [**8-22**] - ready
   from respiratory therapy standpoint.
   .
   -TF not started in anticipation of extubation and because she has high
   OG output. Given reglan for motility to help clear out bowels before
   starting TFs.
   .
   -Pt on MRI table for 10-15 minutes; unable to complete because of
   problems with MRI machine.
   -Transfused 2U platelets and 1U pRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Metronidazole - [**2153-8-20**] 08:02 AM
   Voriconazole - [**2153-8-21**] 06:20 PM
   Vancomycin - [**2153-8-21**] 08:00 PM
   Cefipime - [**2153-8-22**] 12:39 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-8-21**] 08:02 AM
   Fentanyl - [**2153-8-21**] 12:05 PM
   Midazolam (Versed) - [**2153-8-21**] 12:10 PM
   Furosemide (Lasix) - [**2153-8-21**] 01:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 66 (62 - 106) bpm
   BP: 139/74(97) {109/51(70) - 151/78(102)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  1,861 mL
                                                                    436 mL
   PO:
   TF:
   IVF:
                                                                  1,198 mL
                                                                    186 mL
   Blood products:
                                                                    663 mL
                                                                    250 mL
   Total out:
                                                                  5,825 mL
                                                                  1,170 mL
   Urine:
                                                                  5,825 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,964 mL
                                                                   -734 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 640 (406 - 640) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.50/41/109/29/8 (metabolic alkalosis)
   Ve: 8.8 L/min
   PaO2 / FiO2: 273
   SaO2 100% on AC at 500 x 15 with FiO2 40% and PEEP 5.
   Physical Examination
   General- Intubated, alert, communicating with NSG and team, appearing
   comfortable in NAD
   Lungs- Diffuse rhonchi
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+, nontender, + distended
   Ext- trace edema in upper extremities b/l; 2+ pulses.
   Labs / Radiology
   42 K/uL
   7.6 g/dL
   90 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   21.7 %
   0.5 K/uL
         [image002.jpg]
                             [**2153-8-19**]  11:26 PM
                             [**2153-8-20**]  07:36 AM
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
   WBC
   0.3
   0.4
   0.5
   0.5
   0.5
   Hct
   23.8
   25.3
   23.9
   22.2
   23.3
   21.7
   Plt
   27
   11
   31
   15
   27
   9
   52
   42
   Cr
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   34
   33
   Glucose
   109
   123
   98
   88
   90
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   .
   CXR: supine, slight increased haziness on RLL
   .
   BCx [**8-15**], [**2153-8-16**]: no growth (final [**2153-8-22**])
   .
   BAL: legionella negative (final [**2153-8-22**]); Acid Fast Culture pending
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   .
   45 year old female presenting with new diagnosis of likely AML with
   improved hypoxia.
   .
   # Hypoxic respiratory distress:  As above, did well with SBTs.
   Extubated today during rounds. [**Month (only) 11**] still have some pulmonary fluid
   overload.
   -continue nebulizers standing for wheezing
   -diurese with 40mg IV Lasix
 goal 1-2L negative
   -follow sats on face mask with goal transition to nasal cannula
   .
   # Galactomannan positive, concerning for aspergillus infection. Per ID:
   BAL Culture did not actually grow aspergillus; BAL Galactomannan was
   positive, which is sensitive for aspergillus but not very specific.
   Blood galactomannan sent [**2153-8-20**] will take approx 2 weeks to return.
   - Continue voriconazole
   - ID recommends CT chest to evaluate for aspergillus
 will defer CT at
   this time as pt will continue on voriconazole regardless of findings.
   .
   # L cerebellar lesion
 L cerebellar infarct seen on CT.  No source or
   thrombus seen on CTA head and neck. TEE negative for vegetations.  MRI
   not completed yesterday due to machine malfunction.
   -MRI/MRA today
   -Concern for septic emboli to brain and if no vegetations because they
   have already been showered
 touch base with ID if this needs to be
   treated as endocarditis pending MRI findings.
   -Appreciate neuro recs
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following. High risk for infection given neutropenia.
   - f/u heme/onc recs
   -follow BCx
   -Continue broad spectrum coverage
   - q12h CBC
 if pt needs frequent transfusions, will increase to q6h
   -stop checking INR/ fibrinogen /FDP / D-dimer / Uric acid as pt is past
   tumor lysis stage
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   -LP per hem/onc to evaluate for leukemic infiltration to brain
 will
   re-address pending MRI findings.
   ICU Care
   Nutrition: clears
  ADAT
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R Subclavian - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: change to Famotidine PO
   VAP:
   Comments:
   Communication:  Comments: patient, husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU for now

2153-08-22 09:24:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, pancytopenia,
   leukemia, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   4 liter negative fluid balance yesterday. Did well on PSV yesterday.
   Rested on AC overnight. SBT this AM with good RSBI.
   TEE negative for cardiac vegetations.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2153-8-21**] 12:32 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2153-8-19**] 09:00 PM
   Metronidazole - [**2153-8-20**] 08:02 AM
   Vancomycin - [**2153-8-21**] 08:00 PM
   Voriconazole - [**2153-8-22**] 07:00 AM
   Cefipime - [**2153-8-22**] 08:30 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2153-8-21**] 12:05 PM
   Midazolam (Versed) - [**2153-8-21**] 12:10 PM
   Furosemide (Lasix) - [**2153-8-21**] 01:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-22**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 65 (62 - 106) bpm
   BP: 164/84(112) {109/51(70) - 164/84(112)} mmHg
   RR: 12 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
           Total In:
                                                                  1,861 mL
                                                                    648 mL
   PO:
           TF:
   IVF:
                                                                  1,198 mL
                                                                    398 mL
   Blood products:
                                                                    663 mL
                                                                    250 mL
   Total out:
                                                                  5,825 mL
                                                                  1,810 mL
   Urine:
                                                                  5,825 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,964 mL
                                                                 -1,162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (501 - 501) mL
   Vt (Spontaneous): 640 (406 - 640) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.50/41/109/29/8
   Ve: 8.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Scattered
   rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   42 K/uL
   90 mg/dL
   0.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   135 mEq/L
   21.7 %
   0.5 K/uL
        [image002.jpg]
                             [**2153-8-19**]  11:26 PM
                             [**2153-8-20**]  07:36 AM
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
   WBC
   0.3
   0.4
   0.5
   0.5
   0.5
   Hct
   23.8
   25.3
   23.9
   22.2
   23.3
   21.7
   Plt
   27
   11
   31
   15
   27
   9
   52
   42
   Cr
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   34
   33
   Glucose
   109
   123
   98
   88
   90
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: bilateral basilar haziness suggestive of pleural
   effusions (supine film). No significant change from yesterday.
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ====================
   Patient extubated on rounds after we examined the patient. Will
   maintain on mask oxygen for several hours and then try to transition to
   nasal cannula supplementation. Will continue lasix today; aim for
   negative fluid balance of [**1-12**] L.
   Blood counts remain low. Getting PRBC's today.
   Metabolic acidosis resolved.
   Patient to get MR scan to further evaluate CNS lesion and associated
   vasculature. TEE negative for valvular vegetations.
   ICU Care
   Nutrition:
   Comments: Begin clear liquids.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   Arterial Line - [**2153-8-11**] 11:13 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2153-08-23 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-8-22**] 09:18 AM
 ARTERIAL LINE - STOP [**2153-8-22**] 03:27 PM
   .
   [**8-22**]
   -extubated and maintained good sats on 2L NC
   - MRI done this morning
 per Neuro, it is concerning for mass rather
   than infarct.
    1 dose of 40 Lasix yesterday and then autodiuresed for total -6.7 L
   -transfused 2units platelets this AM for plt 11.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-8-20**] 08:02 AM
   Vancomycin - [**2153-8-22**] 08:55 AM
   Voriconazole - [**2153-8-22**] 06:14 PM
   Cefipime - [**2153-8-22**] 11:59 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-8-22**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-23**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 58 (54 - 72) bpm
   BP: 154/76(94) {114/53(78) - 154/91(96)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
                  Total In:
                                                                  1,525 mL
                  PO:
                  TF:
   IVF:
                                                                    925 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  7,610 mL
                                                                    700 mL
   Urine:
                                                                  7,610 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,085 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 94%
   Physical Examination
   General- Pleasant, alert, conversive, NAD
   Lungs: bibasilar crackles, L>R
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+, nontender, slightly distended
   Ext- edema in upper extremities much improved; 2+ pulses.
   Labs / Radiology
   11 K/uL
   8.3 g/dL
   102 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   14 mg/dL
   106 mEq/L
   144 mEq/L
   24.3 %
   0.4 K/uL
        [image002.jpg]
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
                             [**2153-8-22**]  02:30 PM
                             [**2153-8-23**]  04:40 AM
   WBC
   0.4
   0.5
   0.5
   0.5
   0.4
   0.4
   Hct
   25.3
   23.9
   22.2
   23.3
   21.7
   25.8
   24.3
   Plt
   11
   31
   15
   27
   9
   52
   42
   23
   11
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   TCO2
   33
   Glucose
   123
   98
   88
   90
   102
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   .
   CXR [**2153-8-23**]: Compared to [**8-22**], ETT and OGT removed; Cardiac silhouette
   normal; pulm vascular congestion greatly decreased. Mild atelectatic
   changes at base, esp on L
   .
   No new culture results
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   .
   45 year old female presenting with new diagnosis of likely AML with
   improved hypoxia.
   .
   # Hypoxia:  Almost resolved. Pt diuresed 6.7L negative over last day.
   Maintaining good O2 sats on 2L NC with slight SOB  when going to
   commode with quick resolution.
   -continue nebulizers PRN for wheezing
   -wean O2 as tolerated
   .
   # L cerebellar lesion
 concerning for mass rather than infarct. Final
   read pending.
   -f/u final read
   - Possible MRI dedicated to posterior fossa with high resolution
   images/ thin slices
   -F/u neuro recs
   -Neurosurgery consult pending final MRI results
   .
   # Galactomannan positive result - concerning for aspergillus infection.
   Per ID: BAL Culture did not actually grow aspergillus; BAL
   Galactomannan was positive, which is sensitive for aspergillus but not
   very specific. Blood galactomannan sent [**2153-8-20**] will take approx 2
   weeks to return.
   - Continue voriconazole
 change to PO
   - ID recommends CT chest to evaluate for aspergillus
 will defer CT at
   this time as pt will continue on voriconazole regardless of findings.
   The CT will determine long term management.
   .
   .
   # Leukemia: With likely AML- cytogenetics completed.  Heme/onc is
   following. High risk for infection given neutropenia.
   - f/u heme/onc recs
   -follow BCx
   -Continue broad spectrum coverage
   - q12h CBC
 if pt needs frequent transfusions, will increase to q6h
   -stop checking INR/ fibrinogen /FDP / D-dimer / Uric acid as pt is past
   tumor lysis stage
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   -LP per hem/onc to evaluate for leukemic infiltration to brain
 will
   re-address pending MRI findings.
   ICU Care
   Nutrition: clears (per orders)
 low bacteria
  ADAT
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R Subclavian - [**2153-8-11**] 05:46 PM
   20 Gauge - [**2153-8-17**] 05:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: Famotidine PO
   VAP:
   Comments:
   Communication:  Comments: patient, husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: call out to BMT today

2153-08-23 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, leukemia, pancytopenia, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient auto-diuresed yesterday and was extubated. Respiratory status
   has been stable overnight.
   MRI this morning - preliminary [**Location (un) 103**] suggests possible mass rather
   than CVA.
   Transfused RBCs yesterday.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2153-8-22**] 09:18 AM
 ARTERIAL LINE - STOP [**2153-8-22**] 03:27 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2153-8-23**] 06:23 AM
   Cefipime - [**2153-8-23**] 08:00 AM
   Vancomycin - [**2153-8-23**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-23**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.6
   HR: 60 (54 - 72) bpm
   BP: 159/85(101) {114/53(78) - 159/91(114)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,525 mL
                                                                    645 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    925 mL
                                                                    525 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                  7,610 mL
                                                                  1,350 mL
   Urine:
                                                                  7,610 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,085 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   11 K/uL
   102 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   14 mg/dL
   106 mEq/L
   144 mEq/L
   24.3 %
   0.4 K/uL
        [image002.jpg]
                             [**2153-8-20**]  02:41 PM
                             [**2153-8-20**]  05:09 PM
                             [**2153-8-21**]  01:26 AM
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
                             [**2153-8-22**]  02:30 PM
                             [**2153-8-23**]  04:40 AM
   WBC
   0.4
   0.5
   0.5
   0.5
   0.4
   0.4
   Hct
   25.3
   23.9
   22.2
   23.3
   21.7
   25.8
   24.3
   Plt
   11
   31
   15
   27
   9
   52
   42
   23
   11
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   TCO2
   33
   Glucose
   123
   98
   88
   90
   102
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: improvement in bilateral effusions and clearing of
   basilar densities.
   Assessment and Plan
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ========================
   Patient doing extremely well from a respiratory standpoint. Continue
   present antibiotics. Maintain fluid balance even to slightly negative.
   Platelet count down; needs transfusion today. Hct stable - not at
   transfusion threshold.
   Metabolic acidosis resolved.
   MRI concerning for an occipital mass. [**Month (only) 11**] need dedicated MRI for
   posterior fossa.
   ICU Care
   Nutrition: oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   18 Gauge - [**2153-8-22**] 05:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2153-08-24 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2153-8-23**] 08:00 AM
   MRI/MRA of head
 LUMBAR PUNCTURE - At [**2153-8-23**] 08:58 PM
   .
   - BMT attempted LP
 was unsuccessful, may have hit vessel as there was
   bleeding.  Repeat LP was successful. RBCs will be high because of first
   attempt.
   .
   - transfused 1 unit platelets for plt of 29 --> 33
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2153-8-23**] 06:23 AM
   Vancomycin - [**2153-8-23**] 07:29 PM
   Cefipime - [**2153-8-24**] 12:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-8-23**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 66 (53 - 82) bpm
   BP: 146/83(99) {111/58(71) - 159/88(114)} mmHg
   RR: 21 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
           Total In:
                                                                  1,829 mL
                                                                    300 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                    900 mL
                                                                    100 mL
   Blood products:
                                                                    689 mL
                                                                    200 mL
   Total out:
                                                                  3,250 mL
                                                                  1,150 mL
   Urine:
                                                                  3,250 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,421 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General- Pleasant, alert, conversive, NAD
   Lungs: bibasilar crackles, L>R
   Heart- S1S2, RRR, 2/6 SEM throughout precordium
   Abd- BS+, nontender, slightly distended
   Ext- edema in upper extremities much improved; 2+ pulses.
   Neuro: No dysmetria, Rapid alternating movements intact; unsteady gait
 unclear if this is weakness or due to cerebellar lesion
   Labs / Radiology
   33 K/uL
   7.3 g/dL
   94 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   22.0 %
   0.6 K/uL
        [image002.jpg]
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
                             [**2153-8-22**]  02:30 PM
                             [**2153-8-23**]  04:40 AM
                             [**2153-8-23**]  04:57 PM
                             [**2153-8-23**]  09:00 PM
                             [**2153-8-24**]  04:08 AM
   WBC
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   0.6
   0.6
   Hct
   22.2
   23.3
   21.7
   25.8
   24.3
   23.7
   23.8
   22.0
   Plt
   27
   9
   52
   42
   23
   11
   49
   29
   33
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   33
   Glucose
   98
   88
   90
   102
   94
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:2.0 %, Band:2.0 %, Lymph:86.0 %,
   Mono:10.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL,
   Lactic Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   .
   - CSF chemistry: protein 25, glucose 61
   CSF tube 4: WBC 0, RBC 2490, Poly 0, Lymph 60, Mono 40
   CSF tube 1: WBC 0, RBC 3495, Poly 0, Lymph 60, Mono 40
   -Cryptococcual antigen negative
   -G stain: No PMNs and No microorganisms seen
   .
   BCx [**8-15**], [**8-16**] negative (final [**2153-8-22**])
   .
   CXR [**2153-8-24**]: none
   .
   MRI [**2153-8-23**]:
   1. Ring-enhancing lesion in the left cerebellar hemisphere with small
   foci of
   low intensity on susceptibility and surrounding edema. In the presence
   of
   immunosuppression, this may represent fungal disease such as
   Aspergillosis.
   Differential would also include abscess, lymphoma, or solitary
   metastasis. PET
   and Thallium scans can be performed to further assess. Correlation with
   CSF
   findings also recommended.
   2. No neurovascular abnormality identified.
   Assessment and Plan
 INEFFECTIVE COPING
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   .
   45 year old female presenting with new diagnosis of likely AML with
   improved hypoxia.
   .
   # Hypoxia:  Almost resolved. Maintaining good O2 sats on 2L NC .
   -continue nebulizers PRN for wheezing
   -wean O2 as tolerated
   .
   # L cerebellar lesion
 concerning for mass or infection rather than
   infarct. - results of MRI discussed w/ pt and sons that L cerebellar
   lesions represent infection (e.g. aspergillus) vs mass and if mass is
   related or unrelated to AML.
   - Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 980**] (neuro onc) is aware and is in communication with
   Hem/Onc.
   -F/u neuro recs
   -F/u LP results
   -PET CT as outpt
   .
   # Galactomannan positive result - concerning for aspergillus infection.
   Per ID: BAL Culture did not actually grow aspergillus; BAL
   Galactomannan was positive, which is sensitive for aspergillus but not
   very specific. Blood galactomannan sent [**2153-8-20**] will take approx 2
   weeks to return.
   - Continue voriconazole
   - ID recommends CT chest to evaluate for aspergillus
 will defer CT at
   this time as pt will continue on voriconazole regardless of findings.
   The CT will determine long term management.
   .
   # Leukemia: AML.  Heme/onc is following. High risk for infection given
   neutropenia.
   - f/u heme/onc recs
   -follow BCx
   -Continue broad spectrum coverage
   - q12h CBC
 if pt needs frequent transfusions, will increase to q6h
   - monitor Hct and platelets and transfuse to goal of hct >21, plt> 20K
   .
   # Coping
 Pt down re: new MRI findings, length of stay in hospital.
   Per NSG notes, pt realtively uncooperative w/ care overnight.
   Frustrated with constant monitoring
   -SW consult for coping
   ICU Care
   Nutrition: Regular
 low bacteria
   Glycemic Control:  ISS
   Lines:
   Multi Lumen R Subclavian - [**2153-8-11**] 05:46 PM
   18 Gauge - [**2153-8-22**] 05:12 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: Famotidine PO
   VAP:
   Comments:
   Communication:  Comments: patient, husband, brother
   [**Name (NI) 129**] status: Full code
   Disposition: call out to BMT

2153-08-24 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pancytopneia, leukemia, CNS mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had platelet transfusion yesterday and an LP to help assess CNS
   mass. Tube 4, no WBC's. Respiratory status stable post extubation.
   MRI with cerebellar, ring enhancing mass.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2153-8-23**] 08:00 AM
   MRI/MRA of head
 LUMBAR PUNCTURE - At [**2153-8-23**] 08:58 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2153-8-23**] 06:23 AM
   Vancomycin - [**2153-8-24**] 09:07 AM
   Cefipime - [**2153-8-24**] 09:07 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-8-23**] 05:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-8-24**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 65 (53 - 82) bpm
   BP: 128/70(84) {111/58(71) - 159/85(102)} mmHg
   RR: 26 (15 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.7 kg (admission): 61.5 kg
   Height: 62 Inch
           Total In:
                                                                  1,829 mL
                                                                  1,193 mL
   PO:
                                                                    240 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    900 mL
                                                                    493 mL
   Blood products:
                                                                    689 mL
                                                                    200 mL
   Total out:
                                                                  3,250 mL
                                                                  1,300 mL
   Urine:
                                                                  3,250 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,421 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace edema, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   33 K/uL
   94 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   22.0 %
   0.6 K/uL
        [image002.jpg]
                             [**2153-8-21**]  04:43 AM
                             [**2153-8-21**]  04:18 PM
                             [**2153-8-22**]  12:59 AM
                             [**2153-8-22**]  05:08 AM
                             [**2153-8-22**]  05:29 AM
                             [**2153-8-22**]  02:30 PM
                             [**2153-8-23**]  04:40 AM
                             [**2153-8-23**]  04:57 PM
                             [**2153-8-23**]  09:00 PM
                             [**2153-8-24**]  04:08 AM
   WBC
   0.5
   0.5
   0.5
   0.4
   0.4
   0.5
   0.6
   0.6
   Hct
   22.2
   23.3
   21.7
   25.8
   24.3
   23.7
   23.8
   22.0
   Plt
   27
   9
   52
   42
   23
   11
   49
   29
   33
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   TCO2
   33
   Glucose
   98
   88
   90
   102
   94
   Other labs: PT / PTT / INR:14.9/29.3/1.3, ALT / AST:18/12, Alk Phos / T
   Bili:159/1.1, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:8662 ng/mL, Fibrinogen:430 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.0 g/dL, LDH:115 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 ACIDOSIS, METABOLIC
 ANEMIA, OTHER
 THROMBOCYTOPENIA, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPOXEMIA
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ================
   Patient continues to do well post extubation. Continue to ambulate as
   tolerated. Requiring small amounts of supplemental oxygen.
   Hct dropping slowly. Nearing transfusion threshold.
   Platelet count also dropping. No active bleeding.
   Metabolic acidosis resolved.
   Cerebellar mass still being assessed. CSF findings negative for
   infection re: cells.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-8-11**] 05:46 PM
   18 Gauge - [**2153-8-22**] 05:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes